### PR TITLE
[Merged by Bors] - feat(RingTheory): `AlgebraicIndependent` persists to `algebraicClosure`

### PR DESCRIPTION
**Pull request by alreadydone**
* `AlgebraicIndependent.extendScalars`: if A/S/R is a tower of algebras with S/R algebraic, then a family of elements in A that are algebraically independent over R remains algebraically independent over S, provided that S has no zero divisors.

* `AlgebraicIndependent.algebraicClosure`: an algebraically independent family remains algebraically independent over the algebraic closure.

To prove these, we slightly change the statement of `algebraicIndependent_of_finite(_type)'` to keep a hypothesis inherited from `Set.Finite.induction_on'` to make induction work.

---

- [x] depends on: #19660

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean [hunk 1]
```diff
@@ -78,42 +83,53 @@ theorem AlgebraicIndependent.option_iff (hx : AlgebraicIndependent R x) (a : A)
...
+    ext (_|_) <;> simp [e, algebraMap_aevalEquiv]
+  have _ := @MvPolynomial.isScalarTower
+  rw [Set.image_eq_range, AlgebraicIndependent, ← AlgHom.coe_restrictScalars' R, ← e.injective_comp]
+  show Injective ((AlgHom.restrictScalars R <| aeval _).comp e.toAlgHom)
+  rw [this, AlgHom.coe_comp]
+  exact .comp hx (rename_injective _ <| Subtype.val_injective.sum_elim
+    Subtype.val_injective fun i j eq ↦ h.ne_of_mem j.2 i.2 eq.symm)
+
+theorem transcendental_adjoin {s : Set ι} {i : ι} (hi : i ∉ s) :
+    Transcendental (adjoin R (x '' s)) (x i) := by
```
Comment (acmepjz) [inline Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:128]: This and the above `adjoin_of_disjoint` should also have a `IntermediateField.adjoin` version. Would you like to add them?

Also, `transcendental_adjoin` should also have an `iff` version, which could be a `simp` lemma.

Maybe `adjoin_of_disjoint` also have an `iff` version?

I'm thinking of applications to `MvPolynomial` to obtain similar results in https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Algebraic/MvPolynomial.html but for `AlgebraicIndependent`.

**Review by acmepjz — COMMENTED** [review]
Thank you very much! Looks good.

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean [hunk 2]
```diff
@@ -78,42 +83,53 @@ theorem AlgebraicIndependent.option_iff (hx : AlgebraicIndependent R x) (a : A)
...
+    (by rintro _ ⟨x, _, rfl⟩; exact x.2) (hfin.image _) h.image _ i.2
+    (mt Subtype.val_injective.mem_set_image.mp hi)
+
+namespace AlgebraicIndependent
+
+variable (hx : AlgebraicIndependent R x)
+include hx
+
+theorem adjoin_of_disjoint {s t : Set ι} (h : Disjoint s t) :
+    AlgebraicIndependent (adjoin R (x '' s)) fun i : t ↦ x i := by
```
Comment (acmepjz) [inline Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:115]: Maybe you can use `algebraicIndependent_of_finite'`, `aevalEquiv` and [MvPolynomial.transcendental_supported_X](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Algebraic/MvPolynomial.html#MvPolynomial.transcendental_supported_X) to prove this result. I'm not sure if the proof will be shorter or longer, but you need to import a new file.

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:128]: > Also, `transcendental_adjoin` should also have an `iff` version, which could be a `simp` lemma. Maybe `adjoin_of_disjoint` also have an `iff` version?

I added these, but `simp` lemmas with an `AlgebraicIndependent` hypothesis seem weird, so I didn't mark them `@[simp]`.

> This and the above `adjoin_of_disjoint` should also have a `IntermediateField.adjoin` version. Would you like to add them?

They don't fit in this file due to required import, so not in this PR.

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:115]: Changing the base ring (from `adjoin` to `supported`) is tricky, but it's apparently an art you mastered (many `comp_eq` lemmas I recall ...) I'd rather not go that route ...

Comment (acmepjz) [reply Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:115]: >  I'd rather not go that route

That's OK.

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:135]: > > Also, `transcendental_adjoin` should also have an `iff` version, which could be a `simp` lemma. Maybe `adjoin_of_disjoint` also have an `iff` version?
> 
> I added these, but `simp` lemmas with an `AlgebraicIndependent` hypothesis seem weird, so I didn't mark them `@[simp]`.

Oh I forgot it. That's OK.
 
> > This and the above `adjoin_of_disjoint` should also have a `IntermediateField.adjoin` version. Would you like to add them?
> 
> They don't fit in this file due to required import, so not in this PR.

I see. Maybe later I'll add them to another file if they are needed.

**Comment by alreadydone** [comment]
I realize this is very close to well-definedness of transcendence degree, so if @acmepjz is not already working on it I'll try soon.

**Comment by acmepjz** [comment]
> I realize this is very close to well-definedness of transcendence degree, so if @acmepjz is not already working on it I'll try soon.

Thank you very much! I have no plan yet. Feel free to work on it.

File: Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+  hx.extendScalars Subtype.val_injective
+
+protected theorem integralClosure [NoZeroDivisors A] :
+    AlgebraicIndependent (integralClosure R A) x :=
+  hx.extendScalars_of_isIntegral Subtype.val_injective
+
+omit hx in
+protected theorem algebraicClosure {F E : Type*} [Field F] [Field E] [Algebra F E] {x : ι → E}
+    (hx : AlgebraicIndependent F x) : AlgebraicIndependent (algebraicClosure F E) x :=
+  hx.extendScalars Subtype.val_injective
```
Comment (jcommelin) [inline Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:73]: Isn't it more general to assume `E/F` is algebraic, and then extend to `E`?

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:73]: I'm not sure what you mean? If E/F is algebraic then x can't be alg. indep. unless ι is empty, which is very restrictive / vacuous rather than general.

Comment (jcommelin) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:73]: Whoops, you are right. What I should have said is that we can have a tower of fields. And so we can replace `algebraicClosure F E` by any `L` such that `F/L/E` is a tower of fields, and `L/E` is algebraic.
Does that make more sense?

Comment (jcommelin) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:73]: But that needs an injectivity assumption.
Wouldn't the lemma that I describe be a strict generalization of this current one?

Comment (acmepjz) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:73]: > But that needs an injectivity assumption. Wouldn't the lemma that I describe be a strict generalization of this current one?

OK I think a `AlgebraicIndependent.extendScalars_field` may be added, which assumes in A/S/R that `S` is a field.

File: Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean [hunk 4]
```diff
@@ -0,0 +1,75 @@
...
+  nontriviality S
+  have := Module.nontrivial R S
+  exact hx.extendScalars inj
+
+theorem subalgebraAlgebraicClosure [IsDomain R] [NoZeroDivisors A] :
+    AlgebraicIndependent (Subalgebra.algebraicClosure R A) x :=
+  hx.extendScalars Subtype.val_injective
+
+protected theorem integralClosure [NoZeroDivisors A] :
+    AlgebraicIndependent (integralClosure R A) x :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:67]: Here, I think `integralClosure` can be replaced by any `Subalgebra R A` that `IsAlgebraic`.

File: Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:80]: It's enough to assume IsSimpleRing, since RingHom.injective has been generalized to simple rings. I've added that version.

Comment (jcommelin) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:80]: So now this lemma is the special case `S := algebraicClosure F E`, right?

Comment (acmepjz) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:80]: > It's enough to assume IsSimpleRing, since RingHom.injective has been generalized to simple rings. I've added that version.

But a commutative simple ring is automatically a field, no?

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:80]: Indeed; but probably not worth adding a variable and associated typeclasses for the Field ...

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean]: > So now this lemma is the special case `S := algebraicClosure F E`, right?

Yes it works. [845521e](https://github.com/leanprover-community/mathlib4/pull/19708/commits/845521ed4a0cc575ef3f2c79aab317c92b9e6dd1)

File: Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:82]: Added two `subalgebra` versions in [ca2c60c](https://github.com/leanprover-community/mathlib4/pull/19708/commits/ca2c60c135e4aa027e24709f8679714bcd037b29); the IsIntegral version is needed for the degenerate case R=0 where nothing is algebraic over R.

File: Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean [hunk 5]
```diff
@@ -0,0 +1,90 @@
...
+  hx.subalgebra _
+
+protected theorem integralClosure [NoZeroDivisors A] :
+    AlgebraicIndependent (integralClosure R A) x :=
+  hx.subalgebra_of_isIntegral _
+
+omit hx in
+protected theorem algebraicClosure {F E : Type*} [Field F] [Field E] [Algebra F E] {x : ι → E}
+    (hx : AlgebraicIndependent F x) : AlgebraicIndependent (algebraicClosure F E) x :=
+  hx.extendScalars_of_isSimpleRing
```
Comment (jcommelin) [inline Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:88]: Thanks for including the generalizations. Do you think these special cases are still worth keeping? I don't have a strong opinion, but I feel like they aren't really needed anymore.

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/AlgebraicClosure.lean:88]: The original motivation is to derive [this statement](https://github.com/leanprover-community/mathlib4/pull/6718#discussion_r1843759066) that explicitly mentions `integralClosure`. I think it's convenient to write `hx.algebraicClosure` etc. to directly get the result without the need to write `algebraicClosure F E`.
